US05817671
5-(N-[3-thiophenecarbonyl]amino)-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine
Beginning with 1.5 gm (6.5 mMol) 5-amino-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine and 1.2 gm (7.8 mMol) 3-thiophenecarbonyl chloride, 1.42 gm (64%) of the title compound were prepared essentially by the procedure described in Example 4.

reactant | 5-amino-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine | 6.5 mMol, 1.5 gm | NC1=CC=C2C(=N1)C(=CN2)C2CCN(CC2)C | C13H18N4
reactant | 3-thiophenecarbonyl chloride | 7.8 mMol, 1.2 gm | S1C=C(C=C1)C(=O)Cl | C5H3ClOS
product | 5-(N-[3-thiophenecarbonyl]amino)-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine | 1.42 gm, 64% | S1C=C(C=C1)C(=O)NC1=CC=C2C(=N1)C(=CN2)C2CCN(CC2)C | C18H20N4OS
